US07144876B2
3-(4-Chloro-3-pyrrolidin-1-ylmethyl-phenyl)-5-(3-chlorothiophen-2-yl)-[1,2,4]oxadiazole
A solution of 3-(3-bromomethyl-4-chloro-phenyl)-5-(3-chlorothiophen-2-yl)-[1,2,4]oxadiazol (0.030 g, 0.077 mmol), pyrrolidine (0.013 mL, 0.16 mmol), Et3N (0.054 mL, 0.39 mmol) and dichloromethane (8.0 mL) was stirred at room temperature for 20 h. The solution was diluted with dichloromethane (30 mL), washed with 10% Na2CO3 (25 mL), dried over Na2SO4, and concentrated. The product was azeotroped with dichloromethane (3×5 mL) and hexanes (2×5 mL) to give 0.028 g (96%) of the title compound as a white solid. 1H NMR (CDCl3): 8.27 (d, 1H, J=1.7 Hz), 7.98 (dd, 1H, J=8.2 and 1.9 Hz), 7.61 (d, 1H, J=5.2 Hz), 7.49 (d, 1H, J=8.5 Hz), 7.13 (d, 1H, J=5.2 Hz), 3.85 (s, 2H), 2.67 (br s, 4H), 1.84 (br s, 4H).

reactant | 3-(3-bromomethyl-4-chloro-phenyl)-5-(3-chlorothiophen-2-yl)-[1,2,4]oxadiazol | 0.077 mmol, 0.030 g | BrCC=1C=C(C=CC1Cl)C1=NOC(=N1)C=1SC=CC1Cl | C13H7BrCl2N2OS
reactant | pyrrolidine | 0.16 mmol, 0.013 mL | N1CCCC1 | C4H9N
reactant | Et3N | 0.39 mmol, 0.054 mL | CCN(CC)CC | C6H15N
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 8.0 mL | ClCCl | CH2Cl2
product | 3-(4-Chloro-3-pyrrolidin-1-ylmethyl-phenyl)-5-(3-chlorothiophen-2-yl)-[1,2,4]oxadiazole | 0.028 g, 96% | ClC1=C(C=C(C=C1)C1=NOC(=N1)C=1SC=CC1Cl)CN1CCCC1 | C17H15Cl2N3OS
